US07601716B2
4-(3-Chlorophenoxy)-6-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine
6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine (20 mg) was reacted with 4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]morpholine (23.9 mg) as in General Procedure 13. Silica gel chromatography using a gradient of 0-100% ethyl acetate/hexane as the eluting solvent gave the title compound as a yellow foam (49% yield). LCMS: m/z=422.18 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.00-2.11 (m, 1H), 2.22-2.26 (m, 1H), 3.19 (t, J=4.8 Hz, 4H), 3.40-3.45 (m, 1H), 3.58-3.64 (m, 1H), 3.88 (t, J=4.8 Hz, 4H), 5.14 (bs, 1H), 5.37 (t, J=1.0 Hz, 1H), 6.82-6.92 (m, 2H), 6.92 (s, 1H), 6.95-7.02 (m, 2H), 7.03-7.08 (m, 1H), 7.20-7.33 (m, 2H), 7.55 (d, J=1.9 Hz, 1H), 8.27 (d, J=2.1 Hz, 1H).

reactant | 6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 20 mg | BrC=1C=C2C(CCNC2=NC1)OC1=CC(=CC=C1)Cl | C14H12BrClN2O
reactant | 4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]morpholine | 23.9 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCOCC1)C | C16H24BNO3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-(3-Chlorophenoxy)-6-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 49% yield | ClC=1C=C(OC2CCNC3=NC=C(C=C23)C2=CC(=CC=C2)N2CCOCC2)C=CC1 | C24H24ClN3O2
